US05714496
A mixture of 4-iodobenzonitrile (7.69 g), anhydrous sodium carbonate (6.25 g), hydroxylamine hydrochloride (8.74 g), in water (60 ml) and sufficient ethanol to maintain a clear solution, was heated at 90°-100° C. for 4 hours. The reaction mixture was cooled to ambient temperature and evaporated until a precipitate formed. The solid was collected by filtration, washed with water and recrystallised from acetonitrile to give 4-iodobenzamidoxime (5.97 g), m.p. 155°-161° C.; microanalysis, found: C, 31.4; H, 2.7; N, 10.2%; C7H7IN2 O 0.2H2O requires: C, 31.6; H, 2.81; R, 10.5%; NMR: 5.82(2H,s), 7.46(2H,d), 7.73(2H,d), 9.69(1H,s); m/z 263(M+H).

reactant | 4-iodobenzonitrile | 7.69 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | sodium carbonate | 6.25 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 8.74 g | Cl.NO
reactant | ethanol | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 4-iodobenzamidoxime | 5.97 g | IC1=CC=C(C(N)=NO)C=C1 | C7H7IN2O
